US04015002
92.8 g of 2-(2-oxo-cyclohexyl)-2-phenyl acetic acid and 44 g of 4-aminophenol in 800 cm3 of xylene were stirred and heated under reflux, as indicated in Example 1a), until the water formed in the reaction has been totally eliminated. This took 2 hours (volume collected: 14.2 cm3 ; theoretical: 14.4 cm3). After the distillation of 400 cm3 of solvent, the residue was cooled. The precipitate produced was collected and recrystallized from methylcellosolve to give 100 g (82%) of 1-(4-hydroxyphenyl)-2-oxo-3-phenyl-2,4,5,6,7,7a-hexahydro-indole (m.p. 241° C).

reactant | 2-(2-oxo-cyclohexyl)-2-phenyl acetic acid | 92.8 g | O=C1C(CCCC1)C(C(=O)O)C1=CC=CC=C1 | C14H16O3
reactant | 4-aminophenol | 44 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | water | O | H2O
solvent | xylene | 800 cm3 | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(4-hydroxyphenyl)-2-oxo-3-phenyl-2,4,5,6,7,7a-hexahydro-indole | 100 g, 82% | OC1=CC=C(C=C1)N1C(C(=C2CCCCC12)C1=CC=CC=C1)=O | C20H19NO2
